US09260418B2
To a solution of 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde (0.252 g, 1.72 mmol) in 1 mL of DMF under an atmosphere of nitrogen was added sodium hydride (45.5 mg, 1.90 mmol). After 5 min, iodomethane (0.13 mL, 2.1 mmol) was added. After 30 min, the reaction was treated with saturated aqueous ammonium chloride, diluted with water, and extracted 2× with dichloromethane. The combined organic solution was washed 3× with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-40% ethyl acetate in hexanes to provide 1-methyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 161.2.

reactant | 1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 1.72 mmol, 0.252 g | N1C=CC2=C1N=CC=C2C=O | C8H6N2O
reactant | sodium hydride | 1.90 mmol, 45.5 mg | [H-].[Na+]
reactant | iodomethane | 2.1 mmol, 0.13 mL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-methyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | CN1C=CC2=C1N=CC=C2C=O | C9H8N2O
